US06825208B2
2′-(2-Aminomethyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid.
To a suspension of 5′-Benzyloxy-2′-formyl-2,4′-dimethoxy-biphenyl-4-carboxylic acid (50 mg, 0.127 mmol) and (4-Amino-benzyl)-carbamic acid tert-butyl ester (28 mg, 0.127 mmole) in 2 ml dry acetonitrile was added 30μl of indene and a catalytic amount of In(OTf)3. The reaction was sealed and heated at 75° C. for 16 h. The reaction was then allowed to cool to room temperature and then purified by HPLC. Mass spectrum 505 (M−17); in the presence of 0.1M ammonium acetate 521 (M−1) observed for negative ion mode.

reactant | 5′-Benzyloxy-2′-formyl-2,4′-dimethoxy-biphenyl-4-carboxylic acid | 0.127 mmol, 50 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C1=C(C=C(C=C1)C(=O)O)OC)C=O)OC | C23H20O6
reactant | (4-Amino-benzyl)-carbamic acid tert-butyl ester | 0.127 mmole, 28 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
reactant | indene | 30μl | C1C=CC2=CC=CC=C12 | C9H8
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2′-(2-Aminomethyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid | NCC=1C=C2C3C(C(NC2=CC1)C1=C(C=C(C(=C1)OC)O)C1=C(C=C(C=C1)C(=O)O)OC)CC1=CC=CC=C13 | C32H30N2O5
